US05036075
mixture to a temperature of about 20° C., a solution of N-benzyloxycarbonyl-4-piperidone (48.2 g) in ethyl ether (450 cc) is poured in. Stirring is continued for 15 hours at this temperature. The reaction medium is then hydrolysed with a saturated solution of ammonium chloride to pH 6-7, the extracted with diethyl ether (3×500 cc). The organic phase is dried over anhydrous magnesium sulphate and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa). The residual oil is purified by flash-chromatography on a silica column, under a current of argon at medium pressure (0.5-1.5 bar) with dichloromethane and then a mixture of dichloromethane and methanol (90-10 vol) as eluant. N-Benzyloxycarbonyl-4-hydroxy-4-(4-methoxyphenyl)piperidine (21.2 g), m.p. 98° C. is thus obtained, which is used in the crude state in the subsequent syntheses.

reactant | N-benzyloxycarbonyl-4-piperidone | 48.2 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)=O | C13H15NO3
reactant | ethyl ether | 450 cc | C(C)OCC | C4H10O
product | N-Benzyloxycarbonyl-4-hydroxy-4-(4-methoxyphenyl)piperidine | 21.2 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)OC)O | C20H23NO4
